US04088646
2.6 g of 5-fluorouracil was suspended in 20 ml of absolute pyridine, and 20 g of stearic anhydride was added to the resulting suspension. The mixture was heated at 100° C for 1 hour with stirring. After the reaction was completed, pyridine was removed under reduced pressure (25 mm Hg), and the residual solid was dissolved in benzene followed by allowing the solution to cool. The precipitated crystals were filtered, washed with hot hexane and recrystallized from benzene to obtain 5.5 g of 1-N-stearoyl-5-fluorouracil in a yield of 69%. Melting Point: 101° C.

reactant | 5-fluorouracil | 2.6 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | stearic anhydride | 20 g | C(CCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCC)=O | C36H70O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-N-stearoyl-5-fluorouracil | 5.5 g, yield of 69% | C(CCCCCCCCCCCCCCCCC)(=O)N1C(=O)NC(=O)C(=C1)F | C22H37FN2O3
